US08222416B2
A mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (950 mg, 1.69 mmol) in ethanol (10 mL), tetrahydrofuran (2 mL) and 10% aqueous sodium hydroxide solution (1.5 mL) was heated at 100° C. for 1 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution, diluted with ethyl acetate (150 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid (680 mg, 98%) as a solid which was used without further purification.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.69 mmol, 950 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2 | C29H28N2O6S2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1.5 mL | [OH-].[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid | 680 mg, 98% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C(=O)O)N1 | C22H22N2O4S
